US04536501
To a mixture of (S)-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-4-[4-(2-methoxyethenyl)phenoxy]-L-proline, diphenylmethyl ester (3.6 g., 5.66 mmole), 4-amino-6-(trifluoromethyl)-1,3-benzenedisulfonamide (1.8 g., 5.7 mmole) and anisole (3.5 ml.) in 80 ml. of acetonitrile is added 120 mg. of p-toluenesulfonic acid. The reaction is essentially complete after refluxing for one hour. The solvent is removed under vacuum and the residue is triturated with diethyl ether to give a solid. The solid is purified by chromatography on an LPS-1 column eluted with ethyl acetate:pyridine:acetic acid:water (2400:50:15:27). After removal of the solvents on a rotary film evaporator using benzene to azeotrope off the acetic acid and pyridine, 3.8 g. of a homogeneous solid is obtained. Approximately half this material is passed through an LH-20 column (methanol) to give an analytically pure sample of (S)-4-[4-[[7-(aminosulfonyl)-3,4-dihydro-1,1-dioxo-6-(trifluoromethyl)-2H-1,2,4-benzothiadiazin-3-yl]methyl]phenoxy]-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-L-proline; m.p. 170°-182° (foams); [α]D =-24.6° (c=1.0%, methanol). TLC (silica, methylene chloride:methanol:acetic acid; 8:1:1) Rf =0.47.

reactant | (S)-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-4-[4-(2-methoxyethenyl)phenoxy]-L-proline, diphenylmethyl ester | 5.66 mmole, 3.6 g | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1[C@H](C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)CC(C1)OC1=CC=C(C=C1)C=COC)C | C38H37NO6S
reactant | 4-amino-6-(trifluoromethyl)-1,3-benzenedisulfonamide | 5.7 mmole, 1.8 g | NC1=C(C=C(C(=C1)C(F)(F)F)S(=O)(=O)N)S(=O)(=O)N | C7H8F3N3O4S2
reactant | anisole | 3.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-4-[4-[[7-(aminosulfonyl)-3,4-dihydro-1,1-dioxo-6-(trifluoromethyl)-2H-1,2,4-benzothiadiazin-3-yl]methyl]phenoxy]-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-L-proline | NS(=O)(=O)C1=CC2=C(NC(NS2(=O)=O)CC2=CC=C(OC3C[C@H](N(C3)C([C@@H](CSC(C3=CC=CC=C3)=O)C)=O)C(=O)O)C=C2)C=C1C(F)(F)F | C31H31F3N4O9S3
